US04034040
Dioctadecylamine (26.0 g., 0.05 M), α-bromo-p-tolunitrile (4.9 g., 0.025 M) and chloroform (500 ml.) are stirred at room temperature for 24 hours. The precipitate of dioctadecylamine hydrobromide is filtered off and the filtrate concentrated under reduced pressure. The residue is slurried in methanol, filtered, and evaporated to give 1-(dioctadecylamino)methyl-4-cyanobenzene (15.5 g., 97.5% yield).

reactant | Dioctadecylamine | 0.05 M, 26.0 g | C(CCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C36H75N
reactant | α-bromo-p-tolunitrile | 0.025 M, 4.9 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(dioctadecylamino)methyl-4-cyanobenzene | 15.5 g, 97.5% yield | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)CC1=CC=C(C=C1)C#N | C44H80N2
